US07173043B2
According to the method in example 6, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and ethanolamine were converted to yield 2-{4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butylamino}-ethanol as white solid, MS: 421 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-{4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butylamino}-ethanol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCNCCO | C19H21BrN2O2S
